US07589055B2
b) Synthesis of 3-{[3-(triethoxysilyl)propyl]thio}-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone
A solution of α-damascone (9.60 g; 50.0 mmol) and 3-mercaptopropyltriethoxysilane (95% pure, 12.52 g, 50.0 mmol) in THF (40 ml) was treated with DBU (1.52 g, 10.0 mmol) and stirred at 40° C. for 90 min. The reaction solution was treated with 5% HCl, extracted twice with ether, washed with water, saturated aqueous NaHCO3 and then with saturated aqueous NaCl, dried over Na2SO4 and concentrated at 70° C./0.01 mbar. The reaction yielded 21.2 g (99%). of crude product:

reactant | α-damascone | 50.0 mmol, 9.60 g | C/C=C/C(=O)C1C(=CCCC1(C)C)C | C13H20O
reactant | 3-mercaptopropyltriethoxysilane | 50.0 mmol, 12.52 g | SCCC[Si](OCC)(OCC)OCC | C9H22O3SSi
reactant | DBU | 10.0 mmol, 1.52 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | Cl | ClH
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 3-{[3-(triethoxysilyl)propyl]thio}-1-(2,6,6-trimethyl-2-cyclohexen-1-yl)-1-butanone | C(C)O[Si](CCCSC(CC(=O)C1C(=CCCC1(C)C)C)C)(OCC)OCC | C22H42O4SSi
